US07727988B2
5-(3-methyl-2-thienyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E15)
To a solution of 3-[5-(3-methyl-thiophen-2-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde (Prep29, 16 mg, 0.04 mmol) in DCE (3 mL), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 20 mg, 0.05 mmol) in DCE (1 mL), AcOH (6 μl, 0.05 mmol) and NaBH(AcO)3 (30 mg, 0.08 mmol) were added and the mixture was stirred at room temperature overnight. Diethylether was then added and the mixture was washed with 1N solution of HCl, then with aqueous saturated NaHCO3. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography with DCM-MeOH—NH4OH (97-3-1) to give the title compound (8 mg, 42% yield) as a free base.

reactant | 3-[5-(3-methyl-thiophen-2-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde | 0.04 mmol, 16 mg | CC1=C(SC=C1)C=1C(NC(N(C1)CCC=O)=O)=O | C12H12N2O3S
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.05 mmol, 20 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | AcOH | 0.05 mmol, 6 μl | CC(=O)O | C2H4O2
reactant | NaBH(AcO)3 | 0.08 mmol, 30 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | DCE | 3 mL | ClCCCl | C2H4Cl2
reactant | DCE | 1 mL | ClCCCl | C2H4Cl2
solvent | Diethylether | C(C)OCC | C4H10O
product | 5-(3-methyl-2-thienyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | 8 mg, 42% yield | Cl.CC1=C(SC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C24H24F3N3O2S.ClH/c1-15-7-10-33-20(15)19-13-30(22(32)28-21(19)31)9-2-8-29-12-18-11-23(18,14-29)16-3-5-17(6-4-16)24(25,26)27;/h3-7,10,13,18H,2,8-9,11-12,14H2,1H3,(H,28,31,32);1H/t18-,23+;/m0./s1
